US07452893B2
Step 2: trans, trans-4-(4-Phenyl-but-1-enyl)cyclohexylamine
To a solution of 0.47 g of trans-[4-(4-phenyl-but-1-enyl)-cyclohexyl]-carbamic acid tert-butyl ester in 4 mL of dichloromethane at 0° C. and under nitrogen was added 2 mL of trifluoroacetic acid. The reaction was aged for 1 hour, concentrated under reduced pressure. The resulting oil dissolved in methylene chloride and concentrated to give an oil which was utilized in the next step without purification: LCMS (M+1)=230.

reactant | trans-[4-(4-phenyl-but-1-enyl)-cyclohexyl]-carbamic acid tert-butyl ester | 0.47 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=CCCC1=CC=CC=C1)=O | C21H31NO2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | trans-4-(4-Phenyl-but-1-enyl)cyclohexylamine | C1(=CC=CC=C1)CCC=C[C@@H]1CC[C@H](CC1)N | C16H23N
